US07951963B2
To toluene (5 mL) suspension of 5.00 g of 2-(1-benzothiophen-5-yl)ethanol were added 0.23 g of 40% (w/w) benzyltrimethylammonium hydroxide aqueous solution and 2.28 mL of tetrahydrofuran, and dropwise added 2.22 mL of acrylonitrile at 5° C., which was then stirred at 0 to 15° C. for 1.5 hours. To this reaction mixture were added 0.13 mL of hydrochloric acid, 10 mL of methanol and 1.52 g of water. Thereto was introduced 9.47 g of hydrogen chloride, which was then refluxed for 4 hours. After cooling, to the reaction mixture were added 15 mL of water and 10 mL of toluene. The organic layer was separated, and dried over anhydrous magnesium sulfate. After insoluble matter was filtered off, the solvent was distilled off under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to provide 7.36 g of methyl 3-(2-(1-benzothiophen-5-yl)ethoxy)propionate as colorless oily form.

reactant | 2-(1-benzothiophen-5-yl)ethanol | 5.00 g | S1C=CC2=C1C=CC(=C2)CCO | C10H10OS
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | acrylonitrile | 2.22 mL | C(C=C)#N | C3H3N
reactant | hydrochloric acid | 0.13 mL | Cl | ClH
reactant | hydrogen chloride | 9.47 g | Cl | ClH
reactant | methanol | 10 mL | CO | CH4O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 mL | O | H2O
solvent | water | 1.52 g | O | H2O
solvent | tetrahydrofuran | 2.28 mL | O1CCCC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(2-(1-benzothiophen-5-yl)ethoxy)propionate | 7.36 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)OC | C14H16O3S
